US07820663B2
General method for synthesis of N-pyridyl-3-methylisoxazoleacetamides: The desired aminopyridine (0.94 g, 10 mmol) was dissolved in 20 mL of THF at 0° C. and treated with DCC (2.06 g, 10 mmol), followed with a solution of 3-methyl-5-isoxazole acetic acid (1.41 g, 10 mmol) in 10 mL of THF. After stirring at rt overnight the solvent was removed in vacuo and the residue was purified by chromatography (10% MeOH/CH2Cl2), affording the desired N-pyridyl-3-methyl-5-isoxazoleacetamide.

reactant | aminopyridine | 10 mmol, 0.94 g | NC1=NC=CC=C1 | C5H6N2
reactant | DCC | 10 mmol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-methyl-5-isoxazole acetic acid | 10 mmol, 1.41 g | CC1=NOC(=C1)CC(=O)O | C6H7NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-pyridyl-3-methyl-5-isoxazoleacetamide | N1=C(C=CC=C1)NC(CC1=CC(=NO1)C)=O | C11H11N3O2
